US04841076
Synthesis of {[5-chloro-3-(2-hydroxyphenyl)-4-oxo-4H-1-benzopyran-7-yl]oxy}acetic acid
In 100 ml of dried dichloromethane was dissolved 1.7 g of ethyl {[5-chloro-3-(2-hydroxyphenyl)-4-oxo-4H-1-benzopyran-7-yl]oxy}acetate, and the solution was cooled with dry ice-acetone. Three milliliters of boron tribromide were added to the cooled solution in small portions, and the resulting mixture was refluxed for 3 hours. After cooling, the solvent was removed by distillation under reduced pressure, and to the residue was added dilute hydrochloric acid. The precipitated crystals were collected by filtration, washed with water, air-dried, and recrystallized from ethanol to obtain 1.0 g of the entitled compound having a melting point of 188°-189° C. (with decomposition).

reactant | ethyl {[5-chloro-3-(2-hydroxyphenyl)-4-oxo-4H-1-benzopyran-7-yl]oxy}acetate | 1.7 g | ClC1=CC(=CC2=C1C(C(=CO2)C2=C(C=CC=C2)O)=O)OCC(=O)OCC | C19H15ClO6
reactant | dry ice acetone | C(=O)=O.CC(=O)C
reactant | boron tribromide | Three milliliters | B(Br)(Br)Br | BBr3
solvent | dichloromethane | 100 ml | ClCCl | CH2Cl2
product | {[5-chloro-3-(2-hydroxyphenyl)-4-oxo-4H-1-benzopyran-7-yl]oxy}acetic acid | 1.0 g | ClC1=CC(=CC2=C1C(C(=CO2)C2=C(C=CC=C2)O)=O)OCC(=O)O | C17H11ClO6
